US05234924
7-(Bromoacetyl)Benzothiazinone
0.01 mol of 7-acetylbenzothiazinone, described in Am. Chem. Rome, is dissolved in 100 cm3 of methylene chloride. 0.011 mol of bromine is added dropwise and with stirring via a dropping funnel, and stirring is maintained for 13 hours. The mixture is filtered and evaporated to dryness and the residue is recrystallized.

reactant | 7-acetylbenzothiazinone | 0.01 mol | C(C)(=O)C1=CC2=C(C=CNS2=O)C=C1 | C10H9NO2S
reactant | bromine | 0.011 mol | BrBr | Br2
solvent | methylene chloride | 100 cm3 | C(Cl)Cl | CH2Cl2
product | 7-(Bromoacetyl)Benzothiazinone | BrCC(=O)C1=CC2=C(C=CNS2=O)C=C1 | C10H8BrNO2S
